US07645789B2
2,3,4,9-Tetrahydro-1H-carbazol-6-amine (81.8 mg, 0.439 mmol) and 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid (90.4 mg, 0.439 mmol) were dissolved in acetonitrile (3 mL) containing diisopropylethylamine (0.230 mL, 1.32 mmol) and a magnetic stir bar. O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (183 mg, 0.482 mmol) was added to the mixture and the resulting solution was allowed to stir for 16 h at 70° C. The solvent was evaporated and the crude product was then purified on 40 g of silica gel utilizing a gradient of 5-50% ethyl acetate in hexanes to yield 1-(benzo[d][1,3]dioxol-5-yl)-N-(2,3,4,9-tetrahydro-1H-carbazol-6-yl)cyclopropanecarboxamide as a beige powder (0.115 g, 70%) after drying. ESI-MS m/z calc. 374.2, found 375.3 (M+1)+. Retention time of 3.43 minutes. 1H NMR (400 MHz, DMSO-d6) δ 10.52 (s, 1H), 8.39 (s, 1H), 7.46 (d, J=1.8 Hz, 1H), 7.10-6.89 (m, 5H), 6.03 (s, 2H), 2.68-2.65 (m, 2H), 2.56-2.54 (m, 2H), 1.82-1.77 (m, 4H), 1.41-1.34 (m, 2H), 1.04-0.97 (m, 2H).

reactant | 2,3,4,9-Tetrahydro-1H-carbazol-6-amine | 0.439 mmol, 81.8 mg | C1CCCC=2C3=CC(=CC=C3NC12)N | C12H14N2
reactant | 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid | 0.439 mmol, 90.4 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)O | C11H10O4
reactant | diisopropylethylamine | 1.32 mmol, 0.230 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.482 mmol, 183 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(2,3,4,9-tetrahydro-1H-carbazol-6-yl)cyclopropanecarboxamide | 0.115 g, 70% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=3CCCCC3NC1=CC2 | C23H22N2O3
